US09227919B2
To a stirred solution of (R)-3′-(2-methoxyvinyl)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene] (step-4) (3.5 g, 14.21 mmol) in tetrahydrofuran (20 mL) was added HCl (2.159 mL, 71.1 mmol) at 25° C. and reaction was stirred for 16 h. Reaction was monitored by TLC. After completion solvent was evaporated at reduced pressure. Crude obtained was purified by column chromatography (Biotage) using eluent 30% ethyl acetate/hexane to give (S)-2-(4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)acetaldehyde (1.8 g, 9.56 mmol, 67.3% yield) as colourless sticky compound; GCMS 188.10.

reactant | (R)-3′-(2-methoxyvinyl)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene] | 14.21 mmol, 3.5 g | COC=C[C@H]1CC2(C3=CC=CC=C3C1)OCCO2 | C15H18O3
reactant | HCl | 71.1 mmol, 2.159 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (S)-2-(4-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)acetaldehyde | 9.56 mmol, 1.8 g, 67.3% yield | O=C1C[C@@H](CC2=CC=CC=C12)CC=O | C12H12O2
